US09145392B2
A reaction mixture of tert-butyl 4-(4-bromo-1-(2-((methylsulfonyl)oxy)ethyl)-1H-imidazol-2-yl)piperidine-1-carboxylate (28.0 g) and azetidine (11 ml) in to DMF (200 ml) was stirred at 50° C. overnight. The reaction was diluted with EA, washed with water followed by saturated aqueous sodium chloride, dried and concentrated. The residue was purified by column chromatography to give tert-butyl 4-(1-(2-(azetidin-1-yl)ethyl)-4-bromo-1H-imidazol-2-yl)piperidine-1-carboxylate as off-white solid. (17.2 g).

reactant | tert-butyl 4-(4-bromo-1-(2-((methylsulfonyl)oxy)ethyl)-1H-imidazol-2-yl)piperidine-1-carboxylate | 28.0 g | BrC=1N=C(N(C1)CCOS(=O)(=O)C)C1CCN(CC1)C(=O)OC(C)(C)C | C16H26BrN3O5S
reactant | azetidine | 11 ml | N1CCC1 | C3H7N
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | tert-butyl 4-(1-(2-(azetidin-1-yl)ethyl)-4-bromo-1H-imidazol-2-yl)piperidine-1-carboxylate | N1(CCC1)CCN1C(=NC(=C1)Br)C1CCN(CC1)C(=O)OC(C)(C)C | C18H29BrN4O2
